US08710043B2
Step 4. (S)-(3-Fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)methanamine Hydrochloride
To a cooled (0° C.) stirring solution of (S)—N—((S)-(3-fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)methyl)-2-methylpropane-2-sulfinamide (108 g, 288.8 mmol) in DCM:EtOH (1:1, 1080 mL), was added saturated HCl in 1,4-dioxane (216 mL). Stirring was continued for 2 h at 0° C. The progress of the reaction was monitored by TLC (100% EtOAc). After completion of the reaction, the reaction mixture was concentrated and triturated with Et2O to give a white solid which was filtered and dried to give the title compound as a white solid. 1H-NMR (400 MHz, CDCl3) δ ppm 9.23 (s, 3H), 8.60 (d, J=4.8 Hz, 1H), 7.87 (d, J=1.2 Hz, 1H), 7.84 (d, J=8.4 Hz, 2H), 7.72 (d, J=8.4 Hz, 2H), 7.59-7.63 (m, 1H), 6.09 (s, 1H). MS (ESI pos. ion) m/z: 270.1 (M+H).

reactant | (S)—N—((S)-(3-fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)methyl)-2-methylpropane-2-sulfinamide | 288.8 mmol, 108 g | FC=1C(=NC=CC1)[C@@H](N[S@@](=O)C(C)(C)C)C1=CC=C(C=C1)C(F)(F)F | C17H18F4N2OS
reactant | HCl | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM EtOH | 1080 mL | C(Cl)Cl.CCO
solvent | 1,4-dioxane | 216 mL | O1CCOCC1 | C4H8O2
product | (S)-(3-Fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)methanamine Hydrochloride | Cl.FC=1C(=NC=CC1)[C@@H](N)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C13H10F4N2.ClH/c14-10-2-1-7-19-12(10)11(18)8-3-5-9(6-4-8)13(15,16)17;/h1-7,11H,18H2;1H/t11-;/m0./s1
